US06156700
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-methyl-N-(methylsulfonyl)-1,2-benzisothiazole-3-carboxamide
To a solution of 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-(methylsulfonyl)-1,2-benzisothiazole-3-carboxamide (0.300 g, 0.000670 mol) in acetone is added dimethyl sulfate (0.180 g, 0.00140 mol) followed by potassium carbonate (0.250 g, 0.00180 mol). The resultant mixture is stirred one hour at reflux and concentrated in vacuo. The residue is partitioned between methylene chloride and water. The organic layer is saved and the aqueous layer is extracted with methylene chloride. The combined organic layers are washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue is chromatographed on silica gel with ethyl acetate:hexanes to give the title compound as a white solid (0.232 g, 74.9%, mp 120-122° C.).

reactant | 5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-(methylsulfonyl)-1,2-benzisothiazole-3-carboxamide | 0.000670 mol, 0.300 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)NS(=O)(=O)C)C1)=O | C15H11F3N4O5S2
reactant | dimethyl sulfate | 0.00140 mol, 0.180 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.00180 mol, 0.250 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-methyl-N-(methylsulfonyl)-1,2-benzisothiazole-3-carboxamide | 0.232 g, 74.9% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)N(S(=O)(=O)C)C)C1)=O | C16H13F3N4O5S2
